US06156758
4-(1-Benzylpiperidin-4-ylamino)benzoic Acid Methyl Ester (46).
4-Bromomethylbenzoate (4.3 g, 20 mmol) was dissolved in 40 mL of anhydrous toluene. 4-Amino-1-benzyl piperidine (4.8 mL, 22 mmol), tris(dibenzylideneacetone)-dipalladium(0) (60 mg, 0.07 mmol), (±)-2,2'-bis(diphenyl-phosphino)-1,1'-binaphthyl [(±)-BINAP] (124 mg, 0.2 mmol) and cesium carbonate (9.2 g, 28 mmol) were added sequentially at 25° C. The resulting mixture was stirred and heated to 80° C., maintained at that temperature for 12 h, then was cooled to 25° C. The reaction mixture was diluted with a mixture of MeOH/CH2Cl2 (150 mL, v/v, 50:50). The diluted mixture was filtered through celite and the filtrate was concentrated under reduced pressure. The resulting residue was partitioned between EtOAc (200 mL) and H2O (200 mL). The organic layer was dried (Na2SO4), filtered and concentrated in vacuo to give a deep yellow solid residue. Purification of the residue by flash column chromatography (gradient elution 30 to 40% EtOAc in hexanes) provided the title compound as a pale yellow solid residue (2.26 g, 35%): TLC (Rf =0.40; 60% EtOAc/hexanes); 1H NMR (CDCl3) δ 7.84 (d, 2H, J=8.8), 7.31 (s, 5H), 6.52 (d, 2H, J=8.9), 4.04 (d, 1H, J=7.8), 3.84 (s, 3H), 3.53 (s, 2H), 3.40 (m, 1H), 2.85 (d, 2H, J=11.9), 2.16 (t, 2H, J=12.7), 1.99 (m, 2H), 1.52 (m, 2H); 13C NMR (CDCl3) δ 167.3, 150.9, 138.2, 131.6, 129.1, 128.2, 127.1, 118.0, 111.7, 63.1, 52.1, 51.5, 49.5, 32.3; Anal. (C20H24N2O2) C, H, N.

reactant | 4-Bromomethylbenzoate | 20 mmol, 4.3 g | BrCC1=CC=C(C(=O)[O-])C=C1
reactant | 4-Amino-1-benzyl piperidine | 22 mmol, 4.8 mL | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | (±)-2,2'-bis(diphenyl-phosphino)-1,1'-binaphthyl | 0.2 mmol, 124 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 28 mmol, 9.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH CH2Cl2 | 150 mL | CO.C(Cl)Cl
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.07 mmol, 60 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(1-Benzylpiperidin-4-ylamino)benzoic Acid Methyl Ester | COC(C1=CC=C(C=C1)NC1CCN(CC1)CC1=CC=CC=C1)=O | C20H24N2O2
